US07579449B2
[4-(5-bromo-2-chloro-benzyl)-phenylethynyl]-triisopropyl-silane
Under argon 0.66 ml of a 2 M solution of isopropylmagnesium chloride in tetrahydrofuran are added dropwise to a solution of 0.50 g (4-iodo-phenylethynyl)-triisopropyl-silane in 2.2 ml dry tetrahydrofuran chilled to −25° C. The solution is stirred for 30 min at −25° C. and then combined with 0.26 ml of a 1 M solution of CuCN*2 LiCl in tetrahydrofuran (prepared by dissolving CuCN and LiCl in the ratio 1:2). Shortly afterwards, 0.35 g 4-bromo-2-bromomethyl-1-chlorbenzene are added and the reaction mixture is brought up to −5° C. in the cooling bath. After 6 h stirring at −5° C. the solution is heated to ambient temperature and stirred overnight. Then a mixture of saturated ammonium chloride solution and 25% ammonia solution (9:1) is added and the resulting mixture is added to water. The organic phase is separated off and the aqueous phase is extracted with ethyl acetate, the combined organic phases are dried over sodium sulphate, and the solvent is removed. The residue is purified through silica gel (cyclohexane).

reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | (4-iodo-phenylethynyl)-triisopropyl-silane | 0.50 g | IC1=CC=C(C=C1)C#C[Si](C(C)C)(C(C)C)C(C)C | C17H25ISi
reactant | CuCN | C(#N)[Cu]
reactant | LiCl | [Li+].[Cl-]
reactant | 4-bromo-2-bromomethyl-1-chlorbenzene | 0.35 g | BrC1=CC(=C(C=C1)Cl)CBr | C7H5Br2Cl
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.2 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | [4-(5-bromo-2-chloro-benzyl)-phenylethynyl]-triisopropyl-silane | BrC=1C=CC(=C(CC2=CC=C(C=C2)C#C[Si](C(C)C)(C(C)C)C(C)C)C1)Cl | C24H30BrClSi
